subckt bmuxi_x1 S A X M0 M1 PP VDD VSS
BMA_P0 (a_b A VDD VDD) pmos w=2u l=100n
BMA_N0 (a_b A VSS VSS) nmos w=1u l=100n
BMS_P0 (s_b S VDD VDD) pmos w=2u l=100n
BMS_N0 (s_b S VSS VSS) nmos w=1u l=100n
BMM0_P0 (m0_b M0 VDD VDD) pmos w=2u l=100n
BMM0_N0 (m0_b M0 VSS VSS) nmos w=1u l=100n
BMM1_P0 (m1_b M1 VDD VDD) pmos w=2u l=100n
BMM1_N0 (m1_b M1 VSS VSS) nmos w=1u l=100n
BMX_P0 (x_b X VDD VDD) pmos w=2u l=100n
BMX_N0 (x_b X VSS VSS) nmos w=1u l=100n
BM00_MP0 (bm_b0 M0 s_b VDD) pmos w=2u l=100n
BM00_MN0 (bm_b0 m0_b s_b VSS) nmos w=1u l=100n
BM00_MP1 (bm_b0 m0_b a_b VDD) pmos w=2u l=100n
BM00_MN1 (bm_b0 M0 a_b VSS) nmos w=1u l=100n
BM10_MP0 (bm_b1 M1 s_b VDD) pmos w=2u l=100n
BM10_MN0 (bm_b1 m1_b s_b VSS) nmos w=1u l=100n
BM10_MP1 (bm_b1 m1_b a_b VDD) pmos w=2u l=100n
BM10_MN1 (bm_b1 M1 a_b VSS) nmos w=1u l=100n
BMX0_MP0 (bm_y X bm_b0 VDD) pmos w=2u l=100n
BMX0_MN0 (bm_y x_b bm_b0 VSS) nmos w=1u l=100n
BMX0_MP1 (bm_y x_b bm_b1 VDD) pmos w=2u l=100n
BMX0_MN1 (bm_y X bm_b1 VSS) nmos w=1u l=100n
BMO0_P0 (PP bm_y VDD VDD) pmos w=2u l=100n
BMO0_N0 (PP bm_y VSS VSS) nmos w=1u l=100n
ends bmuxi_x1
